US06617346B1
To a solution of 2-hydroxy-4-methoxy-benzonitrile (90 mg, 0.573 mmol), cyclopentanol (55 mg, 0.630 mmol) and triphenylphosphine (167 mg, 0.630 mmol) in tetrahydrofuran (3 mL) cooled to −78° was added diethylazodicarboxalate (0.16 mL, 0.860 mmol). The cooling bath was removed and the reaction was allowed to warm up to room temperature over 1.5 h. The reaction mixture was concentrated in vacuo, and purification of the residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 0-8% diethyl ether in hexanes yielded 2-cyclopentyloxy-4-methoxy-benzonitrile as a clear liquid (125 mg, 96%).

reactant | 2-hydroxy-4-methoxy-benzonitrile | 0.573 mmol, 90 mg | OC1=C(C#N)C=CC(=C1)OC | C8H7NO2
reactant | cyclopentanol | 0.630 mmol, 55 mg | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 0.630 mmol, 167 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-cyclopentyloxy-4-methoxy-benzonitrile | 125 mg, 96% | C1(CCCC1)OC1=C(C#N)C=CC(=C1)OC | C13H15NO2
